datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[O:16][H:17]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5][c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:13][O:16][H:17],6.091904
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7]>>[C:0]([S:1][C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7])([H:2])[H:3],-4.184
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:17]([C:16](=[C:15]([H:21])[H:22])[H:23])([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])[H:7],60.1241
[O:0][O:1][C:2]([C:3]([O:4][H:11])([C:5]([O:6][O:7][H:14])([H:12])[H:13])[H:10])([H:8])[H:9]>>[O:0]([O:1][C:2]([C:3]([O:4])([C:5]([O:6][O:7][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:11],88.15688
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19][C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:19](=[C:18]([H:21])[H:22])[C:20]([H:23])([H:24])[H:25])[H:11])[H:10])([H:8])[H:9],4.30952
[C:0](=[C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]2[c:11]1[H:20])[H:13])[H:12]>>[C:0](#[C:1][c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]2[c:11]1[H:20])[H:12].[H:13],161.807832
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30]([C:31]([H:41])([H:42])[H:43])[c:32]1[c:33]([H:44])[c:34]([H:45])[c:35]([H:46])[c:36]([H:47])[c:37]1[H:48])([H:38])([H:39])[H:40]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[C:30]([C:29]([H:38])([H:39])[H:40])([C:31]([H:41])([H:42])[H:43])[c:32]1[c:33]([H:44])[c:34]([H:45])[c:35]([H:46])[c:36]([H:47])[c:37]1[H:48])([H:15])([H:16])[H:17],46.4842
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:14])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],-5.8576
[C:0]([C:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:5])([H:6])[H:7]>>[C:0]([C:1]1([H:5])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:6])[H:7],174.473
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:27])([H:28])[H:29])[H:26])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]1([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]([H:24])([H:25])[C:9]1([C:10]([H:27])([H:28])[H:29])[H:26])[H:13])([H:11])[H:12],25.1877
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16],35.9824
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])[H:12])([H:8])([H:9])[H:10].[H:11][O:24],9.3094
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],-17.5728
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4])([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:4])[H:14])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])[H:15],46.35872
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[O:15][O:16][H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:9][O:15][O:16][H:17],58.19944
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:16])[H:15])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]1([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:10],130.457
